US07153848B2
A solution of methyl 13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepin-10-carboxylate (45.8 mg, 0.12 mmol) in THF/MeOH (1:2, 3 mL) and 1N aqueous NaOH (0.5 mL) was heated at 50° C. for 5 h. The reaction solution was concentrated to remove volatile organics, neutralized with TFA (0.04 mL) and purified by preparative HPLC (MeOH/H2O with TFA buffer) to yield 13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepin-10-carboxylic acid (33 mg, 0.092 mmol, 76%) as white solid. 1HNMR (500 MHz, MeOD) δ 8.25 (s, 1H), 7.96 (d, J=8.5 Hz, 1H), 7.79 (dd, J=8.5, 1.2 Hz, 1H), 7.63–7.52 (m, 3H), 7.50–7.46 (m, 1H), 4.44 (br s, 2H), 3.92–3.86 (m, 2H), 3.03 (tt, J=12.4, 3.1 Hz, 1H), 2.21–2.10 (m, 2H), 1.97–1.80 (m, 5H), 1.54–1.36 (m, 2H). LCMS: m/e 361 (M+H)+, ret time 1.88 min, column C, 2 minute gradient, start at 0% B.

reactant | methyl 13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepin-10-carboxylate | 0.12 mmol, 45.8 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCNC3=C(C21)C=CC=C3)C(=O)OC | C24H26N2O2
solvent | THF MeOH | 3 mL | C1CCOC1.CO
solvent | NaOH | 1N, 0.5 mL | [OH-].[Na+]
product | 13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepin-10-carboxylic acid | 0.092 mmol, 33 mg, 76% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CCNC3=C(C21)C=CC=C3)C(=O)O | C23H24N2O2
